US08865713B2
Step B: 5-Benzyloxymethyl-2-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole.
To a solution of [2-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-5-yl]-methanol (100 mg, 0.370 mmol) and DMF (3 mL) was added NaH (30.0 mg, 0.740 mmol, 60% suspension in mineral oil) at 0° C. The reaction mixture was stirred for 1 h at 0° C., then treated with benzyl bromide (52.0 μL, 0.440 mmol). The reaction mixture was stirred for 16 h. Water (5 mL) was added and the product was extracted with EtOAc (3×20 mL). The combined organic layers were washed with brine, dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (5-50% EtOAc/hexanes) to provide the titled compound (100 mg, 75%). MS (ESI/CI): mass calcd. for C19H21ClN2O3, 360.1; m/z found, 361.1 [M+H]+

reactant | [2-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-5-yl]-methanol | 0.370 mmol, 100 mg | ClC1=NC2=C(N1COCCOC)C=CC(=C2)CO | C12H15ClN2O3
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | NaH | 0.740 mmol, 30.0 mg | [H-].[Na+]
reactant | benzyl bromide | 0.440 mmol, 52.0 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | Water | 5 mL | O | H2O
product | 5-Benzyloxymethyl-2-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole | 100 mg, 75% | C(C1=CC=CC=C1)OCC1=CC2=C(N(C(=N2)Cl)COCCOC)C=C1 | C19H21ClN2O3
